US07488789B2
(2) Synthesis of (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)diphenylmethane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 1.75 g of fluorene (10.5 mmol) was dissolved in 40 ml of dehydrated diethylether in a nitrogen atmosphere. To the solution, 7.0 ml of an n-butyl lithium/hexane solution (1.58M: 11.1 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. The solvent was distilled off under reduced pressure and thereby a reddish orange solid was obtained. In a glove box, to the reddish-orange solid, 3.17 g of 3-tert-butyl-1-methyl-6,6-diphenylfulvene (10.6 mmol) was added and dissolved in 50 ml of dehydrated diethyl ether. The solution was stirred for 120 hr while intermittent refluxing in a 50° C. oil bath and stirred at room temperature for 496 hr. To the resulting reaction mixture, 50 ml of a distilled water was gradually added dropwise in an ice bath and diethyl ether was added to the mixed solution to separate an organic phase. The organic phase was washed with distilled waster and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give red oil. The red oil was re-crystallized from ethanol and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 0.648 g (1.39 mmol) as a pale yellow solid (yield: 13%).

reactant | fluorene | 10.5 mmol, 1.75 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 11.1 mmol, 1.58M, 7.0 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-diphenylfulvene | 10.6 mmol, 3.17 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24
reactant | water | 50 ml | O | H2O
solvent | diethylether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)diphenylmethane | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3CC12 | C36H34
